US05631259
224 mg (1 mmol) of palladium(II) acetate, 2.5 ml (10 mmol) of triisopropyl phosphite and 1.5 ml of 1.6 molar n-butyllithium solution in n-hexane (2 mmol) are brought together in 40 ml of dry tetrahydrofuran at 0° C. under inert nitrogen gas and the mixture is stirred. After addition of 30 ml of dry dimethylsulfoxide, 4.32 g (20 mmol) of N6 -(N-methyl-pyrrolidin-ylidene)adenine (prepared by reaction of adenine with the diethyl acetal of N-methyl-pyrrolid-2-one in 2-propanol; beige powder, melting point: 248°-251° C.) are added; a solution of 1.64 g (20 mmol) of epoxycyclopentene in 20 ml of dry tetrahydrofuran is then added dropwise in the course of one hour. The solution is stirred at room temperature for 12 hours and then concentrated and the residue is chromatographed over silica gel (methylene chloride/methanol 9/1). 1.62 g (27% of theory) of N6 -(N-methyl-2-pyrrolidin-ylidene)-9-[(1RS,4SR)-4-hydroxy-cyclopent-2-en-1-yl]adenine of melting point 135°-138° C. are obtained in a regiospecific manner. 1H NMR (270 MHz, d6 -DMSO), δ[ppm]: 8.42 (s, 1H), 8.16 (s, 1H), 6.20 (m, 1H), 6.00 (m, 1H), 5.50 (m, 1H), 5.46 (d, 1H), 4.73 (m, 1H), 3.50 (t, 2H), 3.04 (s, 3H), 2.90 (m, 1H), 2.85 (t, 2H), 1.97 (p, 2H), 1.74 (m, 1H). N6 -(N-Methyl-2-pyrrolidin-ylidene)-9-(cyclopent-1-en-3-on-1-yl)adenine of melting point 200°-205° C. is isolated as a by-product (20 mg, 0.3% of theory). 1H NMR (270 MHz, CDCl3), δ[ppm]: 8.64 (s, 1H), 8.13 (s, 1H), 7.19 (m, 1H), 3.53 (t, 2H), 3.34 (m, 2H), 3.20 (s, 3H), 3.07 (t, 2H), 2.65 (m, 2H), 2.10 (p, 2H).

reactant | triisopropyl phosphite | 10 mmol, 2.5 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | n-butyllithium | 1.6 molar, 1.5 ml | C(CCC)[Li]
reactant | n-hexane | 2 mmol | CCCCCC | C6H14
reactant | N6 -(N-methyl-pyrrolidin-ylidene)adenine | 20 mmol, 4.32 g | CN1C(CCC1)=NC1=C2NC=NC2=NC=N1 | C10H12N6
reactant | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | epoxycyclopentene | 20 mmol, 1.64 g | O1C2=C1CCC2 | C5H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | 1 mmol, 224 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N-methyl-pyrrolid-2-one | CN1C(CCC1)=O | C5H9NO
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | N6 -(N-methyl-2-pyrrolidin-ylidene)-9-[(1RS,4SR)-4-hydroxy-cyclopent-2-en-1-yl]adenine | 1.62 g, 27% | CN1C(CCC1)=NC1=C2N=CN(C2=NC=N1)C1C=CC(C1)O | C15H18N6O
